US07045665B2
A Grignard reagent was prepared from 4-(3-benzyloxypropyl)bromobenzene (3.2 g), magnesium (0.25 g), a catalytic amount of iodine and tetrahydrofuran (10.5 mL). To the obtained Grignard reagent solution was added a solution of 2-(methoxymethoxy)benzaldehyde (1.1 g) in tetrahydrofuran (24 mL), and the mixture was stirred at 65° C. for 25 minutes. After cooling to ambient temperature, a saturated aqueous ammonium chloride solution (10 mL) and water (20 mL) were added to the reaction mixture, and the mixture was extracted with ethyl acetate (100 mL). The extract was washed with water (20 mL) and brine (20 mL). After the extract was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give a diphenylmethanol compound (2.5 g). The obtained diphenylmethanol compound (2.5 g) was dissolved in ethanol (42 mL), a catalytic amount of 10% palladium-carbon powder was added to the solution, and the mixture was stirred under a hydrogen atmosphere at room temperature for 7.5 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/2) to give a phenylpropanol compound (1.6 g). After the obtained phenylpropanol compound (1.6 g) was dissolved in dichloromethane (29 mL), 4-(dimethylamino)pyridine (0.069 g), triethylamine (1.0 mL) and benzoyl chloride (0.79 mL) were added to the solution, and the mixture was stirred at room temperature for 3 hours. To the reaction mixture were added ethyl acetate (100 mL) and water (30 mL), and the organic layer was separated. The extract was washed with brine (30 mL) and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=20/1) to give an ester compound (2.2 g). A mixture of the obtained ester compound (2.2 g), p-toluenesulfonic acid monohydrate (0.21 g) and methanol (28 mL) was stirred at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give 2-[4-(3-benzoyloxy-propyl)benzyl]phenol (1.8 g).

reactant | diphenylmethanol | 2.5 g | C1(=CC=CC=C1)C(O)C1=CC=CC=C1 | C13H12O
solvent | ethanol | 42 mL | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | phenylpropanol | 1.6 g | CCC(C=1C=CC=CC1)O | C9H12O
